US08492549B2
(R*)-3-[1-((R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl)piperidin-3-yl]benzoic acid methyl ester
(R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl chloride (240 mg, 1.21 mmol) in DCM (5 ml) was added to an ice-cold mixture of 3-(piperidin-3-yl)benzoic acid methyl ester (267 mg, 1.21 mmol), triethylamine (59 mg, 0.58 mmol) and DCM (10 ml). After stirring for 2 h at RT, the mixture was washed with 1 M HCl (10 ml) and 1 M Na2CO3. The organic phase was dried over Na2SO4 and evaporated to dryness and the residue was purified by flash chromatography using heptane/EtOAc as eluent. The first eluting diastereomer was collected to afford 98 mg of the title compound.

reactant | (R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl chloride | 1.21 mmol, 240 mg | O1[C@H](COC2=C1C=CC=C2)C(=O)Cl | C9H7ClO3
reactant | 3-(piperidin-3-yl)benzoic acid methyl ester | 1.21 mmol, 267 mg | COC(C1=CC(=CC=C1)C1CNCCC1)=O | C13H17NO2
reactant | triethylamine | 0.58 mmol, 59 mg | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (R*)-3-[1-((R)-2,3-Dihydrobenzo[1,4]dioxine-2-carbonyl)piperidin-3-yl]benzoic acid methyl ester | 98 mg | COC(C1=CC(=CC=C1)[C@@H]1CN(CCC1)C(=O)[C@H]1COC2=C(O1)C=CC=C2)=O | C22H23NO5
